US04880806
Separately, metallic magnesium (0.38 g) is suspended in anhydrous ethanol (0.8 ml) and thereto is added a few drops of carbon tetrachloride. When the reaction is started, a mixture of diethyl malonate (2.3 ml), anhydrous ethanol (1.5 ml) and anhydrous toluene (6 ml) is added portionwise t 50°-60° C. Thereto is added dropwise a solution of the above 2-chloro-4,5-difluoro-3-methylbenzoyl chloride (3.3 g) in anhydrous toluene (5 ml) at 0° C. After the addition, the mixture is stirred at room temperature for 30 minutes. To the raction mixture is added a mixture of conc. sulfuric acid (0.4 ml) and water (8 ml) and the mixture is extracted with diethyl ether. The extract is dried over magnesium sulfate and the solvent is then distilled off to give diethyl 2-chloro-3-methyl-4,5-difluorobenzoylmalonate (5.1 g).

reactant | magnesium | 0.38 g | [Mg] | Mg
reactant | diethyl malonate | 2.3 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-chloro-4,5-difluoro-3-methylbenzoyl chloride | 3.3 g | ClC1=C(C(=O)Cl)C=C(C(=C1C)F)F | C8H4Cl2F2O
reactant | sulfuric acid | 0.4 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 0.8 ml | C(C)O | C2H6O
catalyst | carbon tetrachloride | a few drops | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | water | 8 ml | O | H2O
product | diethyl 2-chloro-3-methyl-4,5-difluorobenzoylmalonate | 5.1 g | ClC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C(C(=C1C)F)F | C15H15ClF2O5
